US09403768B2
Phosphorus oxychloride (164 mg, 0.1 mL, 1.07 mmol, Eq: 2.16) was added dropwise to a cooled (ice-bath) solution of 2,6-difluoroaniline (264 mg, 0.22 mL, 2.04 mmol, Eq: 4.12) and (S)-1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylic acid (0.18 g, 497 μmol, Eq: 1.00) in pyridine (4 mL). The cooling bath was removed and the reaction was stirred at rt. After 1 h the reaction mixture was diluted with toluene (10 mL) and concentrated in vacuo. The residue was treated with water (10 mL) and extracted with EtOAc (2×10 mL). The combined organic layers were washed with 0.1 M aqueous HCl (10 mL) and brine (10 mL) and then concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 12 g, 0% to 30% EtOAc in hexanes) to give tert-butyl (S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (0.21 g), m/z=474 (M+H).

reactant | Phosphorus oxychloride | 1.07 mmol, 0.1 mL, 164 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-difluoroaniline | 2.04 mmol, 0.22 mL, 264 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | (S)-1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)indoline-2-carboxylic acid | 497 μmol, 0.18 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O)C(C)C | C19H26N2O5
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl (S)-1-((S)-2-(2,6-difluorophenylcarbamoyl)indolin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.21 g | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C(C)C)NC(OC(C)(C)C)=O)=O | C25H29F2N3O4
